US07977481B2
5-(2-m-Tolylamino-pyrimidin-4-yl)thiophene-2-carboxylic acid (200 mg, 0.643 mmol) was treated with Diphenylphosphorylazide (277 uL, 1.28 mmol) and triethylamine (180 uL, 1.28 mmol) in t-BuOH (4 mL) for 7 hours at 100° C. The reaction was cooled to room temperature, concentrated in vacuo and purified by SiO2 chromatography (0-50% B over 25 min.; Hexanes/EtOAc) to afford [5-(2-m-Tolylamino-pyrimidin-4-yl)-thiophen-2-yl]-carbamic acid tert-butyl ester (101.8 mg, 41.1%). 1H NMR (500 MHz, DMSO-d6) δ 1.49 (s, 9H), 2.32 (s, 3H), 6.57 (d, J=4 Hz, 1H), 6.75 (d, J=8 Hz, 1H), 7.13 (t, J=8 Hz, 1H), 7.14 (d, J=5 Hz, 1H), 7.47 (br m, 1H), 7.68 (d, J=4 Hz, 1H), 7.83 (br s, 1H), 8.32 (d, J=5 Hz, 1H), 9.42 (s, 1H), 10.8 (br s, 1H). MS: m/z 383 (M+H+).

reactant | 5-(2-m-Tolylamino-pyrimidin-4-yl)thiophene-2-carboxylic acid | 0.643 mmol, 200 mg | C1(=CC(=CC=C1)NC1=NC=CC(=N1)C1=CC=C(S1)C(=O)O)C | C16H13N3O2S
reactant | Diphenylphosphorylazide | 1.28 mmol, 277 uL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.28 mmol, 180 uL | C(C)N(CC)CC | C6H15N
reactant | t-BuOH | 4 mL | CC(C)(C)O | C4H10O
product | [5-(2-m-Tolylamino-pyrimidin-4-yl)-thiophen-2-yl]-carbamic acid tert-butyl ester | 101.8 mg, 41.1% | C(C)(C)(C)OC(NC=1SC(=CC1)C1=NC(=NC=C1)NC=1C=C(C=CC1)C)=O | C20H22N4O2S
